US05328920
N-(5-Trifluoromethylbenzo[b]thien-3-yl)-4-pyridinamine hydrochloride
A solution of 3-amino-5-trifluoromethylbenzo[b]thiophene (27 g, 124 mmol) and 4-chloropyridine hydrochloride (20.5 g, 137 mmol) in 250 mL of 1-methyl-2-pyrrolidinone was stirred at 70°-80° C. for 1.5 hours. After cooling, the reaction mixture was stirred with water, washed with ether and separated. The aqueous layer was basified with a saturated sodium carbonate solution and the product which precipitated was collected. The reaction was repeated as above with an additional sample of 3-amino-5-trifluoromethylbenzo[b]thiophene (25.6 g, 118 mmol) and 4-chloropyridine hydrochloride (22 g, 148 mmol) in 225 mL of 1-methyl-2-pyrrolidinone. After a similar work-up, the two products were combined and dissolved in 10% methanol in ethyl acetate. The solution was dried (anhydrous magnesium sulfate), filtered and concentrated, yielding a yellow solid. This solid product was washed with ether and filtered to afford 39.1 g of a golden solid. Elution of a portion (3.5 g) of the residue through silica with ethyl acetate via flash column chromatography afforded 3.2 g of a white solid. Conversion of 2.4 g to the hydrochloride salt in 10% methanol in ether afforded 2.6 g of white crystals, mp 318°-319° C.

reactant | 3-amino-5-trifluoromethylbenzo[b]thiophene | 124 mmol, 27 g | NC=1C2=C(SC1)C=CC(=C2)C(F)(F)F | C9H6F3NS
reactant | 4-chloropyridine hydrochloride | 137 mmol, 20.5 g | Cl.ClC1=CC=NC=C1
reactant | water | O | H2O
reactant | 3-amino-5-trifluoromethylbenzo[b]thiophene | 118 mmol, 25.6 g | NC=1C2=C(SC1)C=CC(=C2)C(F)(F)F | C9H6F3NS
reactant | 4-chloropyridine hydrochloride | 148 mmol, 22 g | Cl.ClC1=CC=NC=C1
solvent | 1-methyl-2-pyrrolidinone | 250 mL | CN1C(CCC1)=O | C5H9NO
solvent | 1-methyl-2-pyrrolidinone | 225 mL | CN1C(CCC1)=O | C5H9NO
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-Trifluoromethylbenzo[b]thien-3-yl)-4-pyridinamine hydrochloride | 39.1 g | Cl.FC(C1=CC2=C(SC=C2NC2=CC=NC=C2)C=C1)(F)F | InChI=1S/C14H9F3N2S.ClH/c15-14(16,17)9-1-2-13-11(7-9)12(8-20-13)19-10-3-5-18-6-4-10;/h1-8H,(H,18,19);1H
